US06359013B1
E-styryl phenyl sulfone
A solution of phenyl sulfonylacetic acid (0.01 mol) and benzaidehyde (0.01 mol) was subjected to the Procedure 1. The title compound was obtained in 68-72% yield.

reactant | phenyl sulfonylacetic acid | 0.01 mol | C1(=CC=CC=C1)S(=O)(=O)CC(=O)O | C8H8O4S
reactant | benzaidehyde | 0.01 mol | C(C1=CC=CC=C1)=O | C7H6O
product | E-styryl phenyl sulfone | 68-72% yield | C1(=CC=CC=C1)S(=O)(=O)\C=C\C1=CC=CC=C1 | C14H12O2S
